Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Incisional Hernia
 
Major Surgical or Invasive Procedure:
incisional hernia repair

 
History of Present Illness:
The patient is a ___- old male with chronic hepatitis C 
cirrhosis and a history of alcohol abuse.  He is now ___ 
months after undergoing a segment 7 mass resection, 
cholecystectomy, and intraoperative ultrasound on ___, for hepatocellular carcinoma and cholelithiasis 
complicated by intra-abdominal and intrathoracic ascites 
accumulation requiring both a TIPS and
a VATS procedure.  The patient subsequently developed incisional 
hernia in the midline xiphoid extension portion of the incision 
presents for elective incisional hernal repair.

 
Past Medical History:
Past medical history: 
HCV-related cirrhosis  
Portal HTN 
Ascites 
Thrombocytopenia 
Bipolar disorder 
Post-traumatic stress disorder 
Paranoid schizophrenia 
Alcohol abuse 
IV drug use 
TB treated with INH

Past surgical history: 
Left knee surgery x3 
Gunshot wound to the left arm in ___ 
Excision of a benign cyst on his back ___ years ago 
Facial surgery from an accident status post a fall in the 1980s
Excision of segment VII liver mass

 
Social History:
___
Family History:
Family history is significant for his mother who died at age ___ 
of brain cancer. His father died of a suicide (he does not know 
at what age). Most recently his brother was reported by a 
neighbor to have died during the patient's current hospital 
admission. Cause of death was relayed to have been secondary to 
heavy alcohol consumption - details are unclear

 
Physical Exam:
Discharge Physical Exam:
VS: 98.3 98 117/60 18 93%RA
Gen: Oriented, alert, no distress
Cor: Regular rate and rhythym
Res: Normal work of breathing
Abd: Softly distended, mildly tender to palpation in midline 
epigastric incision (site of repair, appropriate)
Wound: Mattress sutures in place, JPx2 with serosanguinous 
fluid, sites C/D/I.
Ext: Well perfused without edema
 
Pertinent Results:
___ 05:50AM BLOOD WBC-7.0 RBC-3.06* Hgb-11.2* Hct-31.0* 
MCV-101* MCH-36.7* MCHC-36.2* RDW-14.0 Plt Ct-77*
___ 05:50AM BLOOD Plt Ct-77*
___ 05:50AM BLOOD ___ PTT-42.9* ___
___ 05:50AM BLOOD ___ 05:50AM BLOOD Glucose-117* UreaN-11 Creat-0.7 Na-139 
K-3.7 Cl-105 HCO3-28 AnGap-10
___ 05:50AM BLOOD ALT-29 AST-36 AlkPhos-170* TotBili-1.2
___ 05:50AM BLOOD Calcium-9.1 Phos-3.8 Mg-1.6
 
Brief Hospital Course:
The patient was admitted to the surgical service and underwent 
incisional herniorrhaphy with mesh.  He tolerated the procedure 
well with no complications.  On POD1 his diet was advanced and 
he was started on his home medications.  He was discharged home 
with drain teaching on POD2.
 
Medications on Admission:
1. warfarin 2 mg Tablet Sig: Two (2) Tablet PO Once Daily at 4 
___.  
2. quetiapine 200 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO BID (2 
times a day).  
4. mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
5. rifaximin 550 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
6. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. tramadol 50 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours) as needed for pain.  
8.  famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
9. furosemide 20 mg Tablet Sig: One (1) Tablet PO ONCE (Once) 
for 1 doses.  
10. spironolactone 25 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
11. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
12. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Milk of Magnesia 400 mg/5 mL Suspension Sig: Five (5) ML PO 
Q12H (every 12 hours) as needed for constipation.  
15. Mylanta 200-200-20 mg/5 mL Suspension Sig: Five (5) ML PO 
twice a day.  

 
Discharge Medications:
1. warfarin 2 mg Tablet Sig: Two (2) Tablet PO Once Daily at 4 
___.  
2. quetiapine 200 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO BID (2 
times a day).  
4. mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
5. rifaximin 550 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
6. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. tramadol 50 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours) as needed for pain.  
8. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
9. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*25 Tablet(s)* Refills:*0*
10. famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
11. furosemide 20 mg Tablet Sig: One (1) Tablet PO ONCE (Once) 
for 1 doses.  
12. spironolactone 25 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
13. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
14. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
16. Milk of Magnesia 400 mg/5 mL Suspension Sig: Five (5) ML PO 
Q12H (every 12 hours) as needed for constipation.  
17. Mylanta 200-200-20 mg/5 mL Suspension Sig: Five (5) ML PO 
twice a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Incisional hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please resume all regular home medications, unless specifically 
advised not to take a particular medication.  Please take any 
new medications as prescribed.
Please take the prescribed analgesic medications as needed.  You 
may not drive or heavy machinery while taking narcotic analgesic 
medications.  You may also take acetaminophen (Tylenol) as 
directed, but do not exceed 4000 mg in one day.
Please get plenty of rest, continue to walk several times per 
day, and drink adequate amounts of fluids.  Avoid strenuous 
physical activity and refrain from heavy lifting greater than 
10lbs., until you follow-up with your surgeon, who will instruct 
you further regarding activity restrictions.  Please also 
follow-up with your primary care physician.
Incision Care:
*Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site.
*Avoid swimming and baths until cleared by your surgeon.
*You may shower and wash incisions with a mild soap and warm 
water.  Gently pat the area dry.
*If you have staples, they will be removed at your follow-up
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.
Bulb Suction Drain Care:
*Please look at the drain site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warmth, and fever).
*Maintain the bulb on suction.
*Record the color, consistency, and amount of fluid in the 
drain.  Call the surgeon, nurse practitioner, or ___ nurse if 
the amount increases significantly or changes in character.
*Empty the drain frequently.
*You may shower and wash the drain site gently with warm, soapy 
water.  You may also wash with half strength hydrogen peroxide 
followed by saline rinse.
*Keep the insertion site clean and dry otherwise.  Place a drain 
sponge for cleanliness.
*Avoid swimming, baths, and hot tubs.  Do not submerge yourself 
in water.
*Attach the drain securely to your body to prevent pulling or 
dislocation.
Please call your doctor or go to the emergency department if:
*You experience new chest pain, pressure, squeezing or 
tightness.
*You develop new or worsening cough, shortness of breath, or 
wheeze.
*You are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons.  Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience an unusual discharge.
*Your pain is not improving within 12 hours or is not under 
control within 24 hours.
*Your pain worsens or changes location.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*You develop any concerning symptoms.

 
Followup Instructions:
___